US08809369B2
A mixture of afford 6-fluoro-4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (0.32 g, 0.81 mmol) in methanol (3 mL) and tetrahydrofuran (10 mL), 30% sodium hydroxide in water (1 mL). The reaction mixture was stirred at 60° C. for 12 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 6-fluoro-4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (0.28 g, 90%) as a white solid which was used for next step without further purification: MS (ESI) M+1=369.3.

reactant | 6-fluoro-4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 0.81 mmol, 0.32 g | COC(=O)C=1C=C(C=C2C(CC(NC12)C1=CC(=CC=C1)N1CCCC1)(C)C)F | C23H27FN2O2
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | water | 1 mL | O | H2O
product | 6-fluoro-4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 0.28 g, 90% | FC=1C=C2C(CC(NC2=C(C1)C(=O)O)C1=CC(=CC=C1)N1CCCC1)(C)C | C22H25FN2O2
